US08871797B2
Compound N-[4-(2-dimethylamino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide (0.50 g, 1.7 mmol) was dissolved in ethanol (25 mL), sodium hydroxide (1.5 g, pallets) in 8 mL of water was added and reaction mixture stirred at 80° C. overnight then concentrated. Water and brine were added then extracted with EtOAc four times. Organic layers were combined, dried over anhydrous Na2SO4 then solvent removed under reduced pressure to afford 4-(2-dimethylamino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenylamine as a light brown oil in 87.5% yield. LCMS m/z (%)=261 (M+H, 100). 1H NMR (400 MHz, DMSO-d6) δ: 9.82 (s, 1H), 9.71 (bs, 1H), 7.48-7.45 (m, 3H), 6.93 (d, J=8.74 Hz, 1H), 6.23 (s, 1H), 3.7 (s, 3H), 2.0 (s, 3H).

reactant | N-[4-(2-dimethylamino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 1.7 mmol, 0.50 g | CN(CCOC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C)C | C16H22N4O2
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
product | 4-(2-dimethylamino-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenylamine | 87.5% yield | CN(CCOC1=C(C=C(C=C1)N)C=1N(N=CC1)C)C | C14H20N4O
